US07910613B2
75: N-[5-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-2-phenyl-acetamide
Prepared from 5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine and phenyl-acetyl chloride.

reactant | 5-(3-ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-ylamine | C(C)C1=NOC(=N1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C13H12N4OS
reactant | phenyl-acetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | N-[5-(3-Ethyl-[1,2,4]oxadiazol-5-yl)-4-phenyl-thiazol-2-yl]-2-phenyl-acetamide | C(C)C1=NOC(=N1)C1=C(N=C(S1)NC(CC1=CC=CC=C1)=O)C1=CC=CC=C1 | C21H18N4O2S
